US05585397
1-acetylindoline-5-sulfonyl Chloride
A 1.02 g portion of 1-acetylindoline was treated with 2 mL of chlorosulfonic acid at 0° C. The mixture was heated at 60° C. for 2 h, then treated with crushed ice, filtered and dried to give 1.3 g of the title compound which was used directly for subsequent reaction. TLC: Rf=0.18, 50% EtOAc/hexane. (1H)-NMR (CDCl3) consistent with structure.

reactant | 1-acetylindoline | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
reactant | chlorosulfonic acid | 2 mL | ClS(=O)(=O)O | ClHO3S
product | 1-acetylindoline-5-sulfonyl Chloride | 1.3 g | C(C)(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C10H10ClNO3S
